US07700641B2
Synthesis of 1′-pentyl-6,7-dihydrospiro[indeno[5,6-d][1,3]dioxole-5,3′-indol]-2′(1′H)-one
A mixture of 1′-pentylspiro[indeno[5,6-d][1,3]dioxole-5,3′-indole]-2′,7(1′H,6H)-dione (0.04 g, 0.11 mmol), triethylsilane (1.50 mL) and trifluroacetic acid (2.00 mL, excess) was stirred at ambient temperature overnight. The mixture was concentrated in vacuo to dryness. The residue was subjected to flash column chromatography to afford the title compound (0.02 g, 47%) as an oil: 1H NMR (300 MHz, CDCl3) δ 7.25 (td, 1H), 7.06-6.95 (m, 2H), 6.88 (d, 1H), 6.77 (s, 1H), 6.05 (s, 1H), 5.88-5.82 (m, 2H), 3.81-3.60 (m, 2H), 3.37-3.24 (m, 1H), 3.13-3.01 (m, 1H), 2.70-2.59 (m, 1H), 2.44-2.32 (m, 1H), 1.76-1.64 (m, 2H), 1.39-1.28 (m, 4H), 0.88 (t, 3H); 13C NMR (75 MHz, CDCl3) δ 179.5, 147.9, 147.0, 142.9, 138.2, 136.7, 134.7, 128.1, 123.5, 122.6, 108.3, 105.3, 103.6, 101.2, 59.9, 40.0, 38.3, 31.6, 29.0, 27.1, 22.6, 14.0; MS (ES+) m/z 372.1 (M+23), 350.1 (M+1).

reactant | 1′-pentylspiro[indeno[5,6-d][1,3]dioxole-5,3′-indole]-2′,7(1′H,6H)-dione | 0.11 mmol, 0.04 g | C(CCCC)N1C(C2(C3=CC=CC=C13)CC(C1=CC=3OCOC3C=C12)=O)=O | C22H21NO4
reactant | triethylsilane | 1.50 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | trifluroacetic acid | 2.00 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 1′-pentyl-6,7-dihydrospiro[indeno[5,6-d][1,3]dioxole-5,3′-indol]-2′(1′H)-one | 0.02 g, 47% | C(CCCC)N1C(C2(C3=CC=CC=C13)CCC1=CC=3OCOC3C=C12)=O | C22H23NO3
